US07432270B2
1,1,1-Trifluoromethanesulphonic acid, 5-bromo-pyridin-2-yl ester
To a solution of 5-bromo-2-pyridone (3 g) in dichloromethane (60 ml) and pyridine (60 ml) at 0° C. under argon was added dropwise trifluoromethane sulphonic anhydride (5.4 g). The resulting mixture was warmed to ambient temperature and after 20 h was evaporated and the residue chromatographed on silica gel eluting with ethyl acetate to afford the title product (3.5 g) as a yellow oil. 1H NMR δ: 7.10 (1H, d, J=8 Hz), 8.00 (1H, dd, 2.4 and 8 Hz), 8.46 (1H, d, J=2.4 Hz).

reactant | 5-bromo-2-pyridone | 3 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | trifluoromethane sulphonic anhydride | 5.4 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 1,1,1-Trifluoromethanesulphonic acid, 5-bromo-pyridin-2-yl ester | 3.5 g | FC(S(=O)(=O)OC1=NC=C(C=C1)Br)(F)F | C6H3BrF3NO3S
